US05039805
For the preparation of the starting material, 5-[1-(t-butoxy)formamido]valeric acid and 3-amino-4-chlorobenzoic acid are coupled to give 3-[5-(1-t-butoxyformamido)valeramido]-4-chlorobenzoic acid, m.p. 203° C., and the latter is coupled with β-alanine t-butyl ester to give N-[3-[5-(1-t-butoxyformamido)valeramido]-4-chlorobenzoyl]-β-alanine t-butyl ester, MS: 498 (60, M+H).

reactant | 5-[1-(t-butoxy)formamido]valeric acid | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | 3-amino-4-chlorobenzoic acid | NC=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO2
product | 3-[5-(1-t-butoxyformamido)valeramido]-4-chlorobenzoic acid | C(C)(C)(C)OC(=O)NCCCCC(=O)NC=1C=C(C(=O)O)C=CC1Cl | C17H23ClN2O5
